US09216999B2
1-(4-[(1-Benzylpiperidin-4-yl)amino]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)ethanone
1-(4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)ethanone (400 mg, 1.23 mmol) and 1-benzylpiperidin-4-amine (1.70 mL, 8.93 mmol) was stirred with N,N-diisopropylethylamine (251 μL. 1.47 mmol) at 140° C. for one day. The reaction mixture was purified by silica gel column chromatography (hexane/ethyl acetate=1/1 (v/v)) to give the title compound (343 mg, yield 58%).

reactant | 1-(4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)ethanone | 1.23 mmol, 400 mg | ClC1=C2C(=NC=C1C(C)=O)N(C=C2)COCC[Si](C)(C)C | C15H21ClN2O2Si
reactant | 1-benzylpiperidin-4-amine | 8.93 mmol, 1.70 mL | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
reactant | N,N-diisopropylethylamine | 1.47 mmol, 251 μL | C(C)(C)N(C(C)C)CC | C8H19N
product | 1-(4-[(1-Benzylpiperidin-4-yl)amino]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)ethanone | 343 mg, yield 58% | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C2C(=NC=C1C(C)=O)N(C=C2)COCC[Si](C)(C)C | C27H38N4O2Si
